US06924284B2
3-[5-(4-Methoxy-phenyl)-isoxazol-3-yl]-propionic acid (124 mg, 0.50 mmol) and 4-(3-amino-propylamino)-2H-phthalazin-1-one (100 mg, 0.46 mmol) were dissolved in DMF (2 mL) and treated with 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (95 mg, 0.50 mmol) and triethylamine (76 mg, 0.75 mmol). 3-[5-(4-Methoxy-phenyl)-isoxazol-3-yl]-N-[3-(4-oxo-3,4-dihydro-phthalazin-1-ylamino)-propyl]-propionamide was isolated by preparative RPLC.

reactant | 3-[5-(4-Methoxy-phenyl)-isoxazol-3-yl]-propionic acid | 0.50 mmol, 124 mg | COC1=CC=C(C=C1)C1=CC(=NO1)CCC(=O)O | C13H13NO4
reactant | 4-(3-amino-propylamino)-2H-phthalazin-1-one | 0.46 mmol, 100 mg | NCCCNC1=NNC(C2=CC=CC=C12)=O | C11H14N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.50 mmol, 95 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.75 mmol, 76 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-[5-(4-Methoxy-phenyl)-isoxazol-3-yl]-N-[3-(4-oxo-3,4-dihydro-phthalazin-1-ylamino)-propyl]-propionamide | COC1=CC=C(C=C1)C1=CC(=NO1)CCC(=O)NCCCNC1=NNC(C2=CC=CC=C12)=O | C24H25N5O4
